US06552022B1
4′-Trifluoromethyl-biphenyl-2-carboxylic Acid (4-piperazin-1-yl-phenyl)-amide
To a solution of 4-{4-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino)-phenyl}-piperazine-1-carboxylic acid tert-butyl ester (11.7 g) in CH2Cl2 (50 mL) was added trifluoroacetic acid (25 mL) and the solution was stirred at room temperature for 2 hours. The mixture was then evaporated under reduced pressure and the residue was taken in water. The resulting precipitate was filtered and washed with water. The resulting solid was then suspended in water, basified with a saturated solution of Na2CO3, and extracted with CH2Cl2. The organic phase was then washed with water, dried over Na2SO4, filtered and evaporated to give the title compound (9 g) as white crystals.

reactant | 4-{4-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino)-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | 11.7 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C29H30F3N3O3
reactant | trifluoroacetic acid | 25 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 4′-Trifluoromethyl-biphenyl-2-carboxylic Acid (4-piperazin-1-yl-phenyl)-amide | 9 g | N1(CCNCC1)C1=CC=C(C=C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C24H22F3N3O
